US04675324
A solution of acetyl chloride (0.604 g) in methylene chloride (5 ml) was added dropwise to a solution of 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (1.526 g) and N,N-dimethylaniline (1.016 g) in methylene chloride (15 ml) with ice cooling over a period of 10 minutes and stirred for further 20 minutes. The mixture was diluted with chloroform, washed successively with 10% hydrochloric acid, water, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residual solid was recrystallized from methanol to give 6-acetamido-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (1.64 g).

reactant | acetyl chloride | 0.604 g | C(C)(=O)Cl | C2H3ClO
reactant | 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 1.526 g | NC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H14N2O2
reactant | N,N-dimethylaniline | 1.016 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-acetamido-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 1.64 g | C(C)(=O)NC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C14H16N2O3
